US07135502B1
Using an analogous procedure to that described for Example 10, N-[(5S)-3-carboxy-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide was reacted with 1-(2-aminoethyl)piperidine to give (5S)-5-(acetylamino)-9,10,11-trimethoxy-N-(2-piperidinoethyl)-6,7-dihydro-5H-dibenzo[a,c]cycloheptene-3-carboxamide.

reactant | N-[(5S)-3-carboxy-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | C(=O)(O)C=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C21H23NO6
reactant | 1-(2-aminoethyl)piperidine | NCCN1CCCCC1 | C7H16N2
product | (5S)-5-(acetylamino)-9,10,11-trimethoxy-N-(2-piperidinoethyl)-6,7-dihydro-5H-dibenzo[a,c]cycloheptene-3-carboxamide | Yield: 43% | C(C)(=O)N[C@H]1CCC2=C(C3=C1C=C(C=C3)C(=O)NCCN3CCCCC3)C(=C(C(=C2)OC)OC)OC | C28H37N3O5
